US08048902B2
Following the procedure described in Example 17, Step 2, {3-methyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester, 3-(4-bromo-phenyl)-propionic acid ethyl ester, and bis(triphenylphosphine)palladium(II) dichloride were reacted to provide 3-(4′-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-propionic acid ethyl ester, which was hydrolyzed to the acid as described in Example 17, Step 3.

reactant | {3-methyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-isoxazol-4-yl}-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C25H28BClN2O5
reactant | 3-(4-bromo-phenyl)-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)Br)=O | C11H13BrO2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4′-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)Cl)=O | C30H29ClN2O5
